US07432279B2
A solution of 4-chloro-6-fluoro-[1,7]naphthyridine-3-carbonitrile (0.75 g, 3.62 mmol) and 3-isopropylaniline (0.82 mL, 5.79 mmol) in ethanol (11 mL) was heated to 80° C. for 10 hours. The reaction was cooled to 0° C., water was added and the mixture was stirred for 15 minutes. The product was filtered, washed with water and dried in the vacuum oven to provide pure 6-fluoro-4-[(3-isopropylphenyl)amino]-1,7-naphthyridine-3-carbonitrile (0.88 g, 80%). 1H NMR (400 MHz, DMSO-D6) δ ppm 1.2 (d, J=7.1 Hz, 6 H) 2.9 (dq, J=6.9 Hz, 1 H) 7.2 (m, 3 H) 7.4 (t, J=7.8 Hz, 1 H) 8.2 (s, 1 H) 8.6 (s, 1 H) 9.1 (s, 1 H) 10.1 (s, 1 H).

reactant | 4-chloro-6-fluoro-[1,7]naphthyridine-3-carbonitrile | 3.62 mmol, 0.75 g | ClC1=C(C=NC2=CN=C(C=C12)F)C#N | C9H3ClFN3
reactant | 3-isopropylaniline | 5.79 mmol, 0.82 mL | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
reactant | water | O | H2O
solvent | ethanol | 11 mL | C(C)O | C2H6O
product | 6-fluoro-4-[(3-isopropylphenyl)amino]-1,7-naphthyridine-3-carbonitrile | 0.88 g, 80% | FC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC(=CC=C1)C(C)C | C18H15FN4
